US04994486
Step 6: 6-Methoxy-4-phenyl-2,3,4,5-tetrahydro-1H-benzo[e]isoindole hydrochloride
To a solution of 0.89 g (2.52 mmol) of 2-benzyl-6-methoxy-4-phenyl-2,3,4,5-tetrahydrobenzo[e]isoindole, from Step 6, in 22 mL of 1,2-dichloroethane is added 0.11 g (0.05 mmol) of 1,8-bis(dimethylamino)-naphthalene and 0.33 mL (3.15 mmol) of 1-chloroethylchloroformate at 0° C. The solution is heated to reflux for 2 h and the solvent removed in vacuo. The residue is filtered through silica gel, eluting with 25% ethyl acetate in hexanes. After concentration under reduced pressure, methanol (20 mL) is added and the solution is heated to reflux for 30 minutes, before the solvent is removed in vacuo to give the title compound.

reactant | 2-benzyl-6-methoxy-4-phenyl-2,3,4,5-tetrahydrobenzo[e]isoindole | 2.52 mmol, 0.89 g | C(C1=CC=CC=C1)N1CC=2C(CC3=C(C2C1)C=CC=C3OC)C3=CC=CC=C3 | C26H25NO
reactant | 1,8-bis(dimethylamino)-naphthalene | 0.05 mmol, 0.11 g | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | 1-chloroethylchloroformate | 3.15 mmol, 0.33 mL | ClC(C)OC(=O)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | 22 mL | ClCCCl | C2H4Cl2
product | 6-Methoxy-4-phenyl-2,3,4,5-tetrahydro-1H-benzo[e]isoindole hydrochloride | Cl.COC1=CC=CC=2C=3CNCC3C(CC21)C2=CC=CC=C2 | InChI=1S/C19H19NO.ClH/c1-21-19-9-5-8-14-16(19)10-15(13-6-3-2-4-7-13)18-12-20-11-17(14)18;/h2-9,15,20H,10-12H2,1H3;1H
